US06127538
Synthesis of 2,4-diamino-6-butylamino-1,3,5-triazine
A mixture of 14.5 g (0.1 mol) of 2,4-diamino-6-chloro-1,3,5-triazine prepared in Reference Example 1, 100 mL of water, and 29.2 g (0.4 mol) of butylamine was warmed with stirring and allowed to react finally at a reflux temperature for 6 hours. After cooling the reaction mixture, the product was filtered and washed sufficiently with a large amount of water and then washed with toluene. The filtrate was dried at 70° C. for 6 hours in vacuum to obtain 17.5 g (yield 96%) of the titled compound. Melting point: 167° C.

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 0.1 mol, 14.5 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | butylamine | 0.4 mol, 29.2 g | C(CCC)N | C4H11N
solvent | water | 100 mL | O | H2O
product | 2,4-diamino-6-butylamino-1,3,5-triazine | 17.5 g, yield 96% | NC1=NC(=NC(=N1)N)NCCCC | C7H14N6
